US07202363B2
4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(2-oxoethyl)thieno[3,2-c]pyridine-7-carboxamide
4-Amino-N-(2,2-dimethoxyethyl)-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide (100 mg, 0.18 mmol), trifluoroacetic acid (2 mL), and water (4 mL) were combined at ambient temperature for 2 hours. Mixture was diluted with a solution of saturated sodium bicarbonate (50 mL) and filtered to yield the title compound (65 mg, 70% yield): 1H NMR (DMSO, 400 MHz) δ 9.59 (s, 1H), 9.50 (s, 1H), 9.13 (m, 1H), 8.61 (s, 2H), 8.08 (d, 1H), 7.79 (s, 1H), 7.65 (dd, 2H), 7.32–7.35 (m, 2H), 7.25 (s, 1H), 7.10–7.16 (m, 2H), 4.16 (d, 2H), 4.04 (s, 3H), 3.92 (s, 3H); RP-HPLC (5% to 95% acetonitrile over 5 minutes, 1 ml/min, 254 nm, betasil HS 100 Å, C18, 5 μm, 50×2.1 column) Rt 3.54 min. MS: 531.0 MH+.

reactant | 4-Amino-N-(2,2-dimethoxyethyl)-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide | 0.18 mmol, 100 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC(OC)OC | C29H29N5O5S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 4 mL | O | H2O
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
product | 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(2-oxoethyl)thieno[3,2-c]pyridine-7-carboxamide | 65 mg, 70% yield | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC=O | C27H23N5O4S
